US05004747
A solution of ethyl (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoate (4.0 g) in a mixture of glacial acetic acid (50 ml) and concentrated hydrochloric acid (50 ml) was heated at reflux for 2 hours and then poured onto a mixture of ice and water (100 g). The resulting white solid was filtered off and crystallised from ethanol, to give (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoic acid (2.8 g) in the form of white crystals, m.p.266°-268° C. [Elemental analysis: C,74.3; H,5.0; N,4.2%; calculated: C,74.7; H,4.95; N,4.59%].

reactant | ethyl (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoate | 4.0 g | CN1C(C2=CC=CC=C2C(=C1/C=C/C(=O)OCC)C1=CC=CC=C1)=O | C21H19NO3
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 100 g | O | H2O
product | (E)-3-(2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)propenoic acid | 2.8 g | CN1C(C2=CC=CC=C2C(=C1/C=C/C(=O)O)C1=CC=CC=C1)=O | C19H15NO3
